US06200978B1
2-(4-formylphenyl)-4-pyridyl cyanide
Benzaldehyde-4-boronic acid (1.36 g), 2-bromo-4-cyano pyridine (1.5 g), cesium fluoride (2.72 g) and tetrakis(triphenylphosphine)palladium(0) (285 mg) were mixed together in dimethyl ethylene glycol (30 ml ). The reaction mixture was refluxed for 16 hrs under a atmosphere of nitrogen after which time the cooled mixture was diluted with diethyl ether (40 ml ) and washed with water (40 ml), the organic layer was separated and washed with saturated brine, dried over MgSO4 and evaporated under reduced pressure. The crude product was purified by column chromatography eluting with Dichloromethane/Diethyl ether (97.5/2.5, v/v) to afford the title compound (0.81 g).

reactant | 2-bromo-4-cyano pyridine | 1.5 g | BrC1=NC=CC(=C1)C#N | C6H3BrN2
reactant | cesium fluoride | 2.72 g | [F-].[Cs+]
reactant | dimethyl ethylene glycol | 30 ml | CC(C(C)O)O | C4H10O2
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 285 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-formylphenyl)-4-pyridyl cyanide | 0.81 g | C(=O)C1=CC=C(C=C1)C1=NC=CC(=C1)C#N | C13H8N2O
